### PR TITLE
Add incompressible flows and Navier–Stokes roadmap

### PR DESCRIPTION
**Pull request by emberian**
hey all,

i got roped into this by Sol, who told me this is probably worth my attention. ok ok ok fine.
i'm still settling in to really review this plan, but thought i'd share it early rather than
late. i have a background in formal verification (long before AI) but am not an expert in
incompressible flow theory yet. anyway, here's codex about the work:

---

Codex here. This draft proposes a dependency-ordered roadmap for building reusable formal infrastructure for incompressible Euler and Navier–Stokes evolution. It grew out of trying to inspect and formalize a purported Navier–Stokes regularity argument, but it deliberately takes over from that manuscript rather than encoding its claims: the aim here is established modern theory, with definitions and intermediate results that can support serious verification and later upstreaming.

The roadmap starts at the gaps that actually constrain a trustworthy development: vector-valued and periodic Sobolev spaces; weak vector calculus on flat spaces; Helmholtz–Leray projection, pressure recovery, and Biot–Savart; heat and Stokes semigroups; nonlinear forms and the equivalence of solution formulations. From there it orders local strong/mild/classical theory, Galerkin construction and Leray–Hopf solutions, global two-dimensional results, conditional regularity and uniqueness criteria, critical-space mild theory, suitable weak solutions and Caffarelli–Kohn–Nirenberg partial regularity, and the positive direction of Onsager theory.

There is an important epistemic boundary: three-dimensional global regularity remains an open statement and a review guardrail, not a roadmap completion target. The document also records nearby false or representation-sensitive statements so that the formalization does not silently strengthen hypotheses, mishandle the Fourier zero mode, identify pressure without its normalization, or conflate distinct notions of solution.

The accompanying `Suggested.lean` file is intentionally modest. It prototypes only a few interfaces whose representation materially affects later work: the Fourier multiplier for the Leray projector (including the zero mode), an `L²` projector target, the sign and integrability shape of a generic mild Duhamel formula, the Euclidean scaling of velocity/pressure/force, and backward parabolic cylinders. These declarations are design probes, not claims that the analytic theory has already been formalized.

The plan is meant to coordinate with Tau Ceti's existing PDE, semigroup, optimal transport, and differential-geometry roadmaps, and to identify components that could mature through Lean Pool and eventually Mathlib. It also links the exploratory `emberian/navier-stokes-proof` development as prior art rather than making it a dependency.

Validation performed on the roadmap repository's committed dependency pins:

- `lake build TauCetiRoadmap.IncompressibleFlows.Suggested`
- current GitHub CI `lake build` — completed successfully (8,807 jobs)
- `git diff --check`

AI-assistance disclosure: I drafted the roadmap and Lean design probes through an extended research and repository-analysis session with Ember. Ember is reviewing the mathematical priorities, wording, and ownership of the proposal; this remains a draft until that serious author review is complete and roadmap reviewers have had a chance to challenge the dependency order, scope, and proposed interfaces.

## Implementation status (2026-08-19)

The roadmap has already produced a substantial implementation, now published as a dependency-ordered review stack rather than left only on a fork branch:

- [current-main publication branch (also the fork default)](https://github.com/emberian/TauCeti/tree/ember/periodic-galerkin)
- [exact publication tip `54a13e30`](https://github.com/emberian/TauCeti/commit/54a13e305246bba9009c74ce36ed717b606e95c6)
- [prepublication fully audited integration tip `948abb0`](https://github.com/emberian/TauCeti/commit/948abb0b36958bdba151c3a39abfd3fe1cb40ece)
- [latest v002-rebased state of the originating `navier-stokes-proof` research repository](https://github.com/emberian/navier-stokes-proof/tree/agent/modern-energy-cancellation) ([exact tip `7190276`](https://github.com/emberian/navier-stokes-proof/commit/7190276dedeb600a9eb07cd52dfb5d8f166f25b5))
- [the staged extraction PR back to the manuscript repository](https://github.com/truthintime/navier-stokes-proof/pull/3)
- [the final NSFormal-side energy-cancellation handoff PR](https://github.com/emberian/navier-stokes-proof/pull/1)

### Draft implementation PR stack

The first slice is an upstream Tau Ceti PR. Later slices are stacked draft PRs in the fork because a fork head cannot be used as the base branch of another PR in the upstream repository; they can be promoted upstream in order as their predecessors land.

1. [TauCetiProject/TauCeti#3574 — smooth periodic integration and coordinate calculus](https://github.com/TauCetiProject/TauCeti/pull/3574)
2. [emberian/TauCeti#1 — normalized mean and sharp Fourier Poincaré](https://github.com/emberian/TauCeti/pull/1)
3. [emberian/TauCeti#2 — weak coordinate derivatives and uniqueness](https://github.com/emberian/TauCeti/pull/2)
4. [emberian/TauCeti#3 — periodic scalar `W¹²` and Fourier-energy characterization](https://github.com/emberian/TauCeti/pull/3)
5. [emberian/TauCeti#4 — smooth and weak flat-torus vector calculus](https://github.com/emberian/TauCeti/pull/4)
6. [emberian/TauCeti#5 — vector `W¹²` and incompressible energy spaces](https://github.com/emberian/TauCeti/pull/5)
7. [emberian/TauCeti#6 — solenoidal `L²`, Leray projection, and divergence Fourier symbol](https://github.com/emberian/TauCeti/pull/6)
8. [emberian/TauCeti#7 — scalar/vector trigonometric density in `W¹²`](https://github.com/emberian/TauCeti/pull/7)
9. [emberian/TauCeti#8 — coercive variational weak Stokes theory](https://github.com/emberian/TauCeti/pull/8)
10. [emberian/TauCeti#9 — incompressible Gelfand triple](https://github.com/emberian/TauCeti/pull/9)
11. [emberian/TauCeti#10 — finite-dimensional Galerkin spaces, projectors, and smooth representatives](https://github.com/emberian/TauCeti/pull/10)

Every slice is below Tau Ceti's 2,000-line review ceiling and has a focused build against current `main`; all remain drafts pending Ember's author review. At the publication tip, the foundation includes smooth and weak periodic coordinate calculus; weak-derivative uniqueness; Fourier multiplier and energy identities; sharp periodic Poincaré; scalar and vector periodic `W¹²` graph spaces; mean-zero and weakly divergence-free energy spaces; solenoidal `L²` closures and orthogonal Leray projections; real trigonometric density in scalar and vector `W¹²`; the exact weak-divergence Fourier symbol; periodic Green and Dirichlet identities; coercive variational weak Stokes existence/uniqueness by Lax–Milgram; the concrete Gelfand triple (`V ↪ H ↪ V*`); and finite-dimensional closed Galerkin spaces with canonical energy-orthogonal projectors, directed absorption, and explicit smooth finite-Fourier representatives.

Validation at the prepublication audited integration tip (the mathematical source of the current-main stack):

- `lake build` — 8,238 jobs
- axiom audit — 53,640 Tau Ceti declarations, only `propext`, `Classical.choice`, and `Quot.sound`
- module-system audit — all 2,505 Tau Ceti modules
- environment lint — no new violations; 4,238/4,238 scanned declarations documented
- dot-notation namespace lint — 0 new violations

This is audited infrastructure, not a proof of three-dimensional global regularity. The next honest bridge is to strengthen finite Fourier synthesis from weak/a.e. incompressibility to pointwise divergence-free, apply the smooth transport cancellation already formalized, and formulate the finite-dimensional Galerkin ODE. The full distributional characterization and Fourier-multiplier formula for the Leray projector also remain open.

### CODE REVIEW

File: TauCetiRoadmap/IncompressibleFlows/Suggested.lean [hunk 1]
```diff
@@ -0,0 +1,155 @@
...
+
+namespace TauCetiRoadmap.IncompressibleFlows
+
+section FourierLeray
+
+variable {d : Type*} [Fintype d] [DecidableEq d]
+
+/-- Complex Fourier amplitudes of a `d`-dimensional velocity field.  Physical fields occupy the
+real form, but the Fourier multiplier is most naturally complex-linear. -/
+abbrev FourierVelocity (d : Type*) := d → ℂ
```
Comment (kim-em) [inline TauCetiRoadmap/IncompressibleFlows/Suggested.lean:31]: 🤖 Claude says:

`FourierVelocity d := d → ℂ` gives `Lp (d → ℂ) 2 volume` the *sup* norm on fibres (`Pi.norm_def`), so `TorusVectorL2 d` is not a Hilbert space: `#synth InnerProductSpace ℂ (Lp (Fin 2 → ℂ) 2 volume)` fails against the pinned Mathlib. Layer 2's self-adjointness, orthogonality and the Hodge decomposition cannot even be stated on this type, and `norm_torusLerayProjection_le_one` below is false (see the thread there).

Fix: use `EuclideanSpace ℂ d` here (`EuclideanSpace ℝ d` for physical fields), and pin the fibre type once in the README's conventions section. Right now the README only says "finite-dimensional real Euclidean space" for the *domain*, Layer 0.1 uses the plain Pi type `Fin n -> R` for the *values*, and your implementation in emberian/TauCeti#6 uses a third representation, `PiLp 2 (fun _ => Lp ℝ 2 _)`, which is the "tuple of representatives" that Layer 0.1 forbids. Three representations for one object is exactly the "pin conventions" failure the top-level README warns about.

File: TauCetiRoadmap/IncompressibleFlows/Suggested.lean [hunk 2]
```diff
@@ -0,0 +1,155 @@
...
+
+theorem torusLerayProjection_isFourierDivergenceFree (u : TorusVectorL2 d) :
+    IsFourierDivergenceFree (torusLerayProjection u) := by
+  sorry
+
+theorem torusLerayProjection_eq_self_iff (u : TorusVectorL2 d) :
+    torusLerayProjection u = u ↔ IsFourierDivergenceFree u := by
+  sorry
+
+theorem norm_torusLerayProjection_le_one :
```
Comment (kim-em) [inline TauCetiRoadmap/IncompressibleFlows/Suggested.lean:85]: 🤖 Claude says:

False as stated, because the fibre norm is the sup norm. At `k = (1,2)`, `a = (1,-1)`: `‖a‖_∞ = 1` but `leraySymbol k a = (6/5, -3/5)` has `‖·‖_∞ = 6/5`. The single Fourier mode with that amplitude is a counterexample to the operator-norm bound. The statement is correct once the fibre is `EuclideanSpace ℂ d`.

File: TauCetiRoadmap/IncompressibleFlows/Suggested.lean [hunk 3]
```diff
@@ -0,0 +1,155 @@
...
+noncomputable section
+
+open MeasureTheory Set
+open scoped ENNReal NNReal
+
+namespace TauCetiRoadmap.IncompressibleFlows
+
+section FourierLeray
+
+variable {d : Type*} [Fintype d] [DecidableEq d]
```
Comment (kim-em) [inline TauCetiRoadmap/IncompressibleFlows/Suggested.lean:27]: 🤖 Claude says:

`[DecidableEq d]` is unused: the `k = 0` test needs `DecidableEq (d → ℤ)`, which comes from `Fintype d` and `DecidableEq ℤ`.

File: TauCetiRoadmap/IncompressibleFlows/Suggested.lean [hunk 4]
```diff
@@ -0,0 +1,155 @@
...
+    leraySymbol k (leraySymbol k a) = leraySymbol k a := by
+  sorry
+
+/-- Complex vector-valued `L²` on the normalized unit torus. -/
+abbrev TorusVectorL2 (d : Type*) [Fintype d] :=
+  Lp (FourierVelocity d) 2 (volume : Measure (UnitAddTorus d))
+
+/-- Distributional divergence-freeness expressed without choosing a representative: every
+Fourier coefficient is transverse to its frequency. -/
+def IsFourierDivergenceFree (u : TorusVectorL2 d) : Prop :=
```
Comment (kim-em) [inline TauCetiRoadmap/IncompressibleFlows/Suggested.lean:64]: 🤖 Claude says:

Once the fibre type is fixed, state this (and the projector) against a real-valued field as well: "preservation of real fields" is a Layer 2 target, and the README says velocity is real-valued, but the only `L²` object prototyped here is complex.

File: TauCetiRoadmap/IncompressibleFlows/README.md [hunk 5]
```diff
@@ -0,0 +1,754 @@
...
+
+## Layer 0: vector-valued and periodic analytic substrate
+
+This layer closes the representation gap between the general analysis library and actual
+velocity fields.
+
+1. Generalize the value--derivative graph construction behind `TauCeti.W1p` from scalar values
+   to a complete finite-dimensional real target `F`.  Use `HasWeakFDerivOn`; prove closedness,
+   completeness, extensionality by the value class, continuous value/derivative projections,
+   and agreement with classical Frechet derivatives.  For `F = Fin n -> R`, prove a continuous
```
Comment (kim-em) [inline TauCetiRoadmap/IncompressibleFlows/README.md:158]: 🤖 Claude says:

Pin the value type here rather than the Pi type: velocity fields should take values in `EuclideanSpace ℝ ι`, with the Pi-type presentation (and the product of scalar `L²` spaces) proved equivalent as bridge lemmas, never used as the carrier. See the `FourierVelocity` thread in `Suggested.lean` for why the choice is load-bearing.

File: TauCetiRoadmap/IncompressibleFlows/README.md [hunk 6]
```diff
@@ -0,0 +1,754 @@
+# Roadmap: incompressible flows and the Navier--Stokes equations
+
+This roadmap builds a reusable formal theory of incompressible Euler and Navier--Stokes
+evolution on flat tori and Euclidean space.  Its target is the established modern theory:
+Helmholtz--Leray projection, transport by incompressible flows, the Stokes semigroup, local
+strong and critical mild solutions, global Leray--Hopf weak solutions, the two-dimensional
+global theory, regularity criteria, and the Caffarelli--Kohn--Nirenberg partial-regularity
+theorem.  These are library results, not a bespoke encoding of one proposed proof.
```
Comment (kim-em) [inline TauCetiRoadmap/IncompressibleFlows/README.md:8]: 🤖 Claude says:

This sentence, "not evidence for the paper's proposed global-regularity argument" (line 119), and the "retained-helicity argument, or any revision of its source paper" guardrail (line 660) all refer to a manuscript the document never names or links. A reader in a year cannot tell what this is about, which is the "roadmaps are timeless" rule. Delete these; the generic guardrail ("formalizing a proof's preliminary identities is not evidence for its conclusion") survives without the history.

File: TauCetiRoadmap/IncompressibleFlows/README.md [hunk 7]
```diff
@@ -0,0 +1,754 @@
...
+   setting, and uniqueness class.  Headline results have one canonical specialization and links
+   to more general forms, not a spray of near-duplicate theorem names.
+3. Maintain exact examples throughout the construction:
+   * zero and constant velocity fields;
+   * decaying single transverse Fourier modes;
+   * periodic shear flows with vanishing nonlinear projection;
+   * Taylor--Green vortices with their pressure and viscous decay;
+   * three-dimensional Beltrami/ABC fields, where the nonlinear term is a gradient;
+   * finite Fourier--Galerkin systems with exact energy cancellation.
+4. Prove that the concrete periodic calculus and Koopman results from the exploratory
```
Comment (kim-em) [inline TauCetiRoadmap/IncompressibleFlows/README.md:599]: 🤖 Claude says:

This makes reconciling with an external, unlinked repository a roadmap target. Per "specify the mathematics, not your existing code", the file-by-file relationship to `emberian/navier-stokes-proof` belongs in a clearly secondary provenance section with a link, not in a layer. Drop 13.4.

File: TauCetiRoadmap/IncompressibleFlows/README.md [hunk 8]
```diff
@@ -0,0 +1,754 @@
...
+   integer weak-derivative Sobolev spaces.  Define the homogeneous mean-zero norm separately;
+   the zero mode is never multiplied by a negative power.
+5. On Euclidean space, consume `TemperedDistribution.MemSobolev` and its bundled Bessel-potential
+   successor rather than define another inhomogeneous scale.  Supply the finite-dimensional
+   vector-valued, real-form, and integer-order weak-derivative equivalences used below.  State
+   homogeneous spaces only after quotienting polynomials or imposing the exact low-frequency
+   condition required by the theorem.
+6. Package Bochner spaces `L^p(I; X)`, weakly continuous paths, distributional time derivatives,
+   and the Lions--Magenes energy identity in the Gelfand triple `V subset H subset V'`.  This
+   consumes the PDE roadmap's Aubin--Lions theorem.  Prove the representative theorem giving a
```
Comment (kim-em) [inline TauCetiRoadmap/IncompressibleFlows/README.md:181]: 🤖 Claude says:

The PDE roadmap does not mention Aubin–Lions anywhere (nor does line 83's claim that it owns it hold up). Nobody is building it, and all of Layer 7 rests on it. Either make it a target here, with the statement (`L^p(0,T;X₀)` with time derivative in `L^r(0,T;X₁)`, `X₀ ↪↪ X ↪ X₁`), or add it to the PDE roadmap in a separate PR and cite that item. Same for line 408.

File: TauCetiRoadmap/IncompressibleFlows/README.md [hunk 9]
```diff
@@ -0,0 +1,754 @@
...
+proves their generators, and adds analyticity or fractional-power results only where the
+abstract semigroup library does not already own them.
+
+The [optimal-transport roadmap](../OptimalTransport/README.md) owns continuity equations for
+measure-valued curves, superposition, and Wasserstein dynamics.  This roadmap owns scalar and
+vector transport by incompressible velocity fields, renormalized transport on Lebesgue/Haar
+spaces, and the bridge showing that an advected density gives the corresponding measure-valued
+continuity equation.  It does not rebuild optimal-transport curves or Benamou--Brenier.
+
+The differential-geometry roadmap owns smooth dependence of ODE flows, maximal and complete
```
Comment (kim-em) [inline TauCetiRoadmap/IncompressibleFlows/README.md:101]: 🤖 Claude says:

No differential-geometry roadmap exists in this repository. Two competing PRs are open: https://github.com/TauCetiProject/TauCetiRoadmap/pull/178 "Add differential geometry roadmap (forms, de Rham cohomology, flows, degree)" and https://github.com/TauCetiProject/TauCetiRoadmap/pull/334 "Differential Forms & Smooth Flows". Name which one, link it, and list the declarations Layer 3 consumes (maximal flow of a `C¹` time-dependent field, the group law, completeness on compact manifolds), so that if it does not land those become targets here rather than a gap.

File: TauCetiRoadmap/IncompressibleFlows/README.md [hunk 10]
```diff
@@ -0,0 +1,754 @@
...
+manifold flows, Riemannian divergence, volume, and the divergence theorem.  Its manifold-flow
+and Riemannian-volume declarations are consumed directly.  The present roadmap starts at the
+Liouville/Jacobian formula, volume preservation, and the induced Koopman and transport theories;
+it does not create a competing manifold-flow API.
+
+Three Lean Pool developments are prior art rather than dependencies.  The archived Vlasov
```
Comment (kim-em) [inline TauCetiRoadmap/IncompressibleFlows/README.md:107]: 🤖 Claude says:

"Lean Pool" is not defined anywhere in this repository and none of the three projects is linked. Link each repository (the OptimalTransport roadmap does this for the Vlasov project) or drop the paragraph.

File: TauCetiRoadmap/IncompressibleFlows/README.md [hunk 11]
```diff
@@ -0,0 +1,754 @@
...
+* Onsager energy conservation above one third implies uniqueness, or formalizes the convex
+  integration half of the conjecture.
+* The exploratory retained-helicity argument, or any revision of its source paper, establishes
+  global three-dimensional regularity merely because its preliminary identities formalize.
+
+## Ordering and claim size
+
+Layers 0--2 are the analytic spine.  Layer 1 can begin against `HasWeakFDerivOn` while the full
+scalar `Wkp` hierarchy develops; Layer 2's `L2` torus projection needs only Fourier `L2`, while
+its `Lp` bounds wait for the PDE harmonic-analysis lane.  Layer 3's smooth half can proceed with
```
Comment (kim-em) [inline TauCetiRoadmap/IncompressibleFlows/README.md:667]: 🤖 Claude says:

"wait for" is the wording the top-level README rules out: nothing on a roadmap waits. Cite PDE Lane B.10 (Calderón–Zygmund operators and Mihlin–Hörmander) as the supplier of the `Lp` bounds and say Layer 2's `Lp` items consume it.

File: TauCetiRoadmap/IncompressibleFlows/README.md [hunk 12]
```diff
@@ -0,0 +1,754 @@
...
+   `(1 + 4 pi^2 |k|^2)^(s/2)`.  Prove completeness, duality `H^s* = H^{-s}` under the `L2`
+   pairing, monotone embeddings, complexification/real-form equivalence, and agreement with
+   integer weak-derivative Sobolev spaces.  Define the homogeneous mean-zero norm separately;
+   the zero mode is never multiplied by a negative power.
+5. On Euclidean space, consume `TemperedDistribution.MemSobolev` and its bundled Bessel-potential
+   successor rather than define another inhomogeneous scale.  Supply the finite-dimensional
+   vector-valued, real-form, and integer-order weak-derivative equivalences used below.  State
+   homogeneous spaces only after quotienting polynomials or imposing the exact low-frequency
+   condition required by the theorem.
+6. Package Bochner spaces `L^p(I; X)`, weakly continuous paths, distributional time derivatives,
```
Comment (kim-em) [inline TauCetiRoadmap/IncompressibleFlows/README.md:179]: 🤖 Claude says:

PDE Lane F.24 already specifies Bochner spaces `L²(0,T;V)`, the Gelfand triple, and the `L²(V) ∩ H¹(V*) ↪ C([0,T];H)` embedding. This item restates it. Decide who owns it and make the two documents agree: either cite F.24 and keep only what is fluid-specific here (the `L^{4/3}(V')` three-dimensional variant), or take it over and trim the PDE roadmap in a separate PR.

File: TauCetiRoadmap/IncompressibleFlows/README.md [hunk 13]
```diff
@@ -0,0 +1,754 @@
...
+   velocities; it does not duplicate the Wasserstein construction.
+
+Acceptance checks: a constant translation on the torus preserves volume and has Koopman
+generator the corresponding directional derivative; a smooth shear preserves every scalar
+`Lp` norm; inverse-time pullback satisfies the pinned transport sign; and an `L-infinity`
+counterexample guards against a false blanket strong-continuity theorem.
+
+## Layer 4: heat and Stokes operators
+
+1. Construct the heat semigroup on the torus from Fourier multipliers
```
Comment (kim-em) [inline TauCetiRoadmap/IncompressibleFlows/README.md:300]: 🤖 Claude says:

PDE Lane F.26 already specifies the heat semigroup, the heat kernel on `ℝⁿ` and its smoothing estimates; 4.1 and 4.2 overlap it. Same resolution as for Layer 0.6: cite F.26 as owner and keep only the periodic mean-zero decay and vector-valued forms here, or take ownership and trim the PDE roadmap.

File: TauCetiRoadmap/IncompressibleFlows/README.md [hunk 14]
```diff
@@ -0,0 +1,754 @@
...
+   under the convergence class used below.  Do not assert without proof that every abstract
+   Leray--Hopf solution admits a pressure representative satisfying the local energy inequality.
+3. Build local pressure decompositions from Riesz transforms plus a harmonic remainder, and
+   prove the Calderon--Zygmund estimates, local interpolation, parabolic Sobolev inequality,
+   Caccioppoli inequality, and compactness lemma for rescaled suitable solutions.
+4. Define the scale-invariant velocity, pressure, gradient, and energy quantities used in the
+   iteration.  Prove their scaling laws and the decay/iteration inequalities with constants
+   independent of the cylinder radius.
+5. Prove an epsilon-regularity theorem: sufficiently small
+   `r^(-2) integral_Qr (|u|^3 + |p-(p)_Br|^(3/2))` on a cylinder implies boundedness and then
```
Comment (kim-em) [inline TauCetiRoadmap/IncompressibleFlows/README.md:543]: 🤖 Claude says:

"boundedness and then smoothness" is false for local suitable weak solutions. Serrin's example `u = a(t) ∇h(x)`, with `h` harmonic and `a` Lipschitz but not `C¹`, is a suitable weak solution with bounded pressure (`p = -a'(t) h - a² |∇h|²/2`) that is not `C¹` in time. The ε-criterion gives `u ∈ L^∞` on a smaller cylinder (CKN's definition of a regular point) or Hölder continuity (Lin; Ladyzhenskaya–Seregin), and then smoothness *in space* by Serrin. Pin the definition of "regular point" in 11.1, correct 11.5 and 11.7 accordingly, and add Serrin's example to the guardrail list; it is exactly the kind of silent strengthening that list exists to catch.

File: TauCetiRoadmap/IncompressibleFlows/README.md [hunk 15]
```diff
@@ -0,0 +1,754 @@
...
+
+* A classical solution satisfies the velocity--pressure equation pointwise with named
+  space--time differentiability.
+* A strong solution has the equation in a named Banach or Hilbert space and enough time
+  regularity for the fundamental theorem of calculus.
+* A mild solution satisfies the Stokes Duhamel formula.
+* A distributional solution is tested against compactly supported divergence-free fields;
+  the pressure-free formulation and the full velocity--pressure formulation are related by a
+  pressure-reconstruction theorem.
+* A Leray--Hopf solution is a distributional solution in the energy class with weak time
```
Comment (kim-em) [inline TauCetiRoadmap/IncompressibleFlows/README.md:64]: 🤖 Claude says:

This defines Leray–Hopf with the energy inequality from time 0, but Layer 7.4 proves the strong energy inequality (almost every starting time), and Layers 7.6 and 9.5 need the strong one. Name two predicates (the inequality from `0`, and the strong energy inequality) and say which theorems need which. Otherwise a contributor formalizes this definition, 7.6 does not follow from it, and someone strengthens the definition silently.

File: TauCetiRoadmap/IncompressibleFlows/README.md [hunk 16]
```diff
@@ -0,0 +1,754 @@
...
+   equality and subcritical interpolation transparently.
+2. Prove the Shinbrot energy-equality criterion
+   `u in L^p_t L^q_x`, `2/p + 2/q <= 1`, `q >= 4`, for unforced Leray--Hopf solutions.
+   Do not turn this sufficient condition into an equivalence or attach equality to every
+   Leray--Hopf solution.
+3. Formalize the critical endpoint theorem of Escauriaza--Seregin--Sverak: an unforced
+   Leray--Hopf solution on `R^3 x (0,T)` with
+   `u in L-infinity((0,T); L3(R^3))` is regular on positive times.  This claim includes the
+   suitable local representative, local pressure theory,
+   rescaling/compactness argument, backward uniqueness, and the required parabolic Carleman
```
Comment (kim-em) [inline TauCetiRoadmap/IncompressibleFlows/README.md:469]: 🤖 Claude says:

Backward uniqueness for the heat operator on a half-space and the Carleman inequalities behind it are theorems on the scale of the rest of a layer, and here they are one clause. Either give them items with statements, or move Escauriaza–Seregin–Šverák out of the completion targets. As written this is a leap of exactly the kind "No gaps" forbids.

File: TauCetiRoadmap/IncompressibleFlows/README.md [hunk 17]
```diff
@@ -0,0 +1,754 @@
...
+
+1. Consume the differential-geometry flow API for a `C1` time-dependent vector field.  Prove
+   the variational equation for the derivative of the flow and Liouville's formula
+   `d/dt det D Phi_(s,t)(x) = (div b_t)(Phi_(s,t)(x)) det D Phi_(s,t)(x)` in Euclidean charts,
+   then its coordinate-invariant volume-form version.
+2. Prove that a smooth divergence-free field generates volume-preserving flow slices.  Conversely,
+   if all local flow slices preserve volume and the field is differentiable, differentiate at
+   time zero to obtain zero divergence.  Specialize to complete autonomous flows on compact
+   unit tori and state the time-dependent interval form separately.
+3. For a measure-preserving continuous flow construct pullback Koopman operators on scalar
```
Comment (kim-em) [inline TauCetiRoadmap/IncompressibleFlows/README.md:266]: 🤖 Claude says:

Mathlib already has `MeasureTheory.Lp.compMeasurePreservingₗᵢ` (isometric composition on `Lp` for a measure-preserving map), and Tau Ceti has `TauCeti.Probability.koopmanMarkov` from the Exchangeability roadmap. Say this item consumes those and adds only the flow parameter, the group law and strong continuity in `t`; the "Existing foundations" section should list them too.

File: TauCetiRoadmap/IncompressibleFlows/README.md [hunk 18]
```diff
@@ -0,0 +1,754 @@
...
+   Gronwall.  Deduce continuous dependence and the semigroup of solution operators on the
+   energy space.
+3. Prove global strong existence for `H1` data, instantaneous regularization for `L2` data at
+   positive times, and global smoothness for smooth data.  The strong estimate takes
+   `f in L2_loc((0,infinity); H)`; the energy solution keeps Layer 7's weaker
+   `f in L2_loc((0,infinity); V')` hypothesis.
+4. Prove the two-dimensional Euler global theorem for `H^s`, `s > 2`, by vorticity control and
+   the logarithmic estimate needed by the continuation criterion.  Separately formalize
+   Yudovich existence and uniqueness for `omega0 in L-infinity` on the torus, with the mean
+   velocity fixed, and for `omega0 in L1 intersect L-infinity` with finite-energy velocity on
```
Comment (kim-em) [inline TauCetiRoadmap/IncompressibleFlows/README.md:445]: 🤖 Claude says:

"with finite-energy velocity" forces zero total vorticity and is not part of the standard theorem (Majda–Bertozzi, Theorem 8.2), where the Biot–Savart velocity is bounded but not in `L²` in general. If the restriction is deliberate, say why; otherwise state it with `u = K * ω ∈ L^∞`.

File: TauCetiRoadmap/IncompressibleFlows/README.md [hunk 19]
```diff
@@ -0,0 +1,754 @@
...
+3. Prove integration by parts on the torus and for compactly supported Euclidean fields.  Extend
+   it by density to the exact conjugate Sobolev exponents.  Record the no-boundary-flux reason
+   periodic identities have no boundary term.
+4. Prove the product rules used by fluids, including
+   `div (u tensor v) = (div u) v + (u dot nabla) v`, the skew transport identity for
+   divergence-free `u`, and in dimension three
+   `curl ((u dot nabla) u) = (u dot nabla) omega - (omega dot nabla) u`.
+   Each weak form names enough integrability to make both sides distributions.
+5. Define kinetic energy, enstrophy, and three-dimensional helicity on their natural domains.
+   Prove coordinate invariance and continuity in the Sobolev topologies used later.  Balance
```
Comment (kim-em) [inline TauCetiRoadmap/IncompressibleFlows/README.md:209]: 🤖 Claude says:

Garbled sentence: "Balance Layer 5 states the balance laws after its solution notions justify their time derivatives."

File: TauCetiRoadmap/IncompressibleFlows/README.md [hunk 20]
```diff
@@ -0,0 +1,754 @@
...
+independently once suitable solutions and the solution dictionary exist.
+
+A useful implementation claim is normally one definition family with its complete basic API
+and one or two named theorems: periodic weak divergence; the `L2` Leray projector; the
+Liouville formula; a concrete Stokes generator; the trilinear cancellation; one Galerkin
+compactness step; or one epsilon-decay lemma.  Hodge decomposition, Lumer--Phillips
+identification, Leray--Hopf existence, Kato critical existence, the endpoint `L3` criterion,
+and CKN each require staged claims whose intermediate results remain independently reusable.
+
+## References
```
Comment (kim-em) [inline TauCetiRoadmap/IncompressibleFlows/README.md:681]: 🤖 Claude says:

Missing references for named targets: Cheskidov–Constantin–Friedlander–Shvydkoy (2008) for the `B^{1/3}_{3,c₀}` endpoint in 12.3; Foias–Temam (1989) for the Gevrey analyticity in 6.3; Ladyzhenskaya–Seregin (1999) for the Hölder form of ε-regularity in 11.5; Scheffer (1976) for the singular-time dimension in 9.5.

**Review by kim-em — CHANGES_REQUESTED** [review]
🤖 Claude says:

Reviewed against the README checklist; the threads are ordered by importance where they land in the files, with the fibre-type problem in `Suggested.lean` the most important.

One process point that has no line to attach to. The PR is still a draft with no `awaiting-review` label, and the description says it stays a draft until your own read-through is done. CONTRIBUTING asks that nobody post a roadmap they have not read carefully themselves, and a subject-area expert would help a lot here: asking in the [Getting started: roadmaps](https://leanprover.zulipchat.com/#narrow/channel/610393-Tau-Ceti/topic/Getting.20started.3A.20roadmaps/with/614905192) Zulip topic for someone in incompressible fluids is the best next step. The "Implementation status" section of the description belongs on Zulip or in the code repository, not in a roadmap PR.

What checked out: the Tau Ceti declarations the roadmap names exist at the pinned commit (`W1p`, `W2p`, `W3p`, `HasWeakFDerivOn`, `StronglyContinuousSemigroup`, and the Lumer–Phillips generation theorem), and the Fourier convention, scaling exponents, pressure-recovery sign, and the Prodi–Serrin, Shinbrot, Fujita–Kato, Kato `L^d` and DiPerna–Lions hypotheses are stated correctly.
